US07915443B2
6-amino-5-[(3-{[(1,3-dimethyl-1H-pyrazol-5-yl)carbonyl]amino}phenyl)ethynyl]nicotinic acid
A solution of methyl 6-amino-5-[(3-{[(1,3-dimethyl-1H-pyrazol-5-yl)carbonyl]amino}phenyl)ethynyl]nicotinate (51 mg, 0.13 mmol) and KOH (37 mg, 0.65 mmol) in 4.0 ml MeOH:H2O (3:1) was heated at 65□C. for 1 hour 40 minutes. The pH of the mixture was adjusted to pH 4 using 10% HCl, brine added, and the aqueous extracted with EtOAc. The combined EtOAc layers were dried with anhydrous Na2SO4 and rotary evaporated. The light yellow solid was triturated with hot EtOAc to give the title compound as an off-white solid (41 mg, 84%).

reactant | methyl 6-amino-5-[(3-{[(1,3-dimethyl-1H-pyrazol-5-yl)carbonyl]amino}phenyl)ethynyl]nicotinate | 0.13 mmol, 51 mg | NC1=NC=C(C(=O)OC)C=C1C#CC1=CC(=CC=C1)NC(=O)C1=CC(=NN1C)C | C21H19N5O3
reactant | KOH | 0.65 mmol, 37 mg | [OH-].[K+]
reactant | HCl | Cl | ClH
solvent | MeOH H2O | 4.0 ml | CO.O
solvent | brine | [Cl-].[Na+].O
product | 6-amino-5-[(3-{[(1,3-dimethyl-1H-pyrazol-5-yl)carbonyl]amino}phenyl)ethynyl]nicotinic acid | 41 mg, 84% | NC1=NC=C(C(=O)O)C=C1C#CC1=CC(=CC=C1)NC(=O)C1=CC(=NN1C)C | C20H17N5O3
